US09085540B2
To a mixture of 5-({5-[(diphenylmethylene)amino]pyridin-3-yl}oxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (130 mg) and tetrahydrofuran (2.17 mL) was added 1 M hydrochloric acid (0.26 mL), followed by stirring at room temperature for 3 hours. To the residue obtained by evaporating the solvent was added ethyl acetate, followed by extraction with water. The aqueous phase was neutralized with a 1 M aqueous sodium hydroxide solution and extracted by the addition of a mixed solvent of chloroform:methanol (10:1). The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; chloroform:methanol=1:0-9:1) to obtain 5-[(5-aminopyridin-3-yl)oxy]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (52 mg) as a yellow solid.

reactant | 5-({5-[(diphenylmethylene)amino]pyridin-3-yl}oxy)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 130 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C=NC1)OC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C | C36H36N8O2
reactant | hydrochloric acid | 1 M, 0.26 mL | Cl | ClH
solvent | tetrahydrofuran | 2.17 mL | O1CCCC1 | C4H8O
product | 5-[(5-aminopyridin-3-yl)oxy]-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 52 mg | NC=1C=C(C=NC1)OC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C | C23H28N8O2
